US08487108B2
To a suspension of NaH (2.76 g, 69 mmol) in DMF (100 mL) was added dropwise a solution of (S)-tert-butyl 4-(3-hydroxy-2,2-dimethylpropyl)-2,2-dimethyloxazolidine-3-carboxylate (6.6 g, 23 mmol) in DMF (150 mL). After the reaction mixture was stirring for 2 h, MeI (6.53 g, 46 mmol) was added dropwise. The mixture was quenched with NH4Cl (100 mL) and extracted with EtOAc (100 mL×2). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated in vacuo. (S)-tert-butyl 4-(3-methoxy-2,2-dimethylpropyl)-2,2-dimethyloxazolidine-3-carboxylate (6.4 g, 93%) was obtained as an oil that was used in the next step without further purification.

reactant | NaH | 69 mmol, 2.76 g | [H-].[Na+]
reactant | (S)-tert-butyl 4-(3-hydroxy-2,2-dimethylpropyl)-2,2-dimethyloxazolidine-3-carboxylate | 23 mmol, 6.6 g | OCC(C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)(C)C | C15H29NO4
reactant | MeI | 46 mmol, 6.53 g | CI | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 4-(3-methoxy-2,2-dimethylpropyl)-2,2-dimethyloxazolidine-3-carboxylate | 6.4 g, 93% | COCC(C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)(C)C | C16H31NO4
